US04140775
In the manner given in Example 1A, p-nitrobenzyl chloride is reacted with p-ethylphenylpiperazine dihydrochloride in the presence of triethylamine to give 1-(p-ethylphenyl)-4-(p-nitrobenzyl)piperazine.

reactant | p-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | p-ethylphenylpiperazine dihydrochloride | Cl.Cl.C(C)N1CCN(CC1)C1=CC=CC=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(p-ethylphenyl)-4-(p-nitrobenzyl)piperazine | C(C)C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C19H23N3O2
